US06797723B1
Preparation of 2-(3-{3-[2-Ethyl-5-hydroxy-4-(2H-pyrazol-3-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid.
A solution of 2-(3-{3-[5-benzyloxy-2-ethyl-4-(2H-pyrazol-3-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid (300 mg, 0.490 mmol) in ethanethiol (2.5 mL) was treated with boron trifluoride etherate (2 mL) at room temperature for 3 h, at which time an additional portion of boron trifluoride etherate (1 mL) was added and stirring resumed for an additional 1 h. The mixture was diluted with diethyl ether and water. The organic layer was separated, washed with water, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 15% ethyl acetate/85% hexane to 60% ethyl acetate/40% hexane) of the residue provided 60 mg (24%) of the title compound as a white solid. 1H NM (CDCl3) δ 8.23 (d, J=8Hz, 1H), 7.61 (s, 1H), 7.42 (t, J=7 Hz, 1H), 7.30 (s, 1H), 7.19 (d, J=8 Hz, 1H), 7.15 (d, J=8 Hz, 1H), 6.81 (d, J=8 Hz, 1H), 6.69 (d, J=8 Hz, 1H), 6.61 (s, 1H), 6.60 (d, J=8 Hz, 1H), 6.54 (s, 1H), 4.20 (m, 4H), 2.58 (m, 4H), 2.33 (quintet, J=6 Hz, 2H), 1.48 (hextet, J=8 Hz, 2H), 1.17 (t, J=8 Hz, 3H), 0.86 (t, J=7 Hz, 3H); TOF MS ES+ exact mass calculated for C30H33N2O6 (p+1): m/z=517.2339. Found: 517.2334. IR (CHCl3, cm−1) 2965, 1738, 1454. Anal. Calcd for C30H32N2O6: C, 69.75; H, 6.24; N, 5.42. Found: C, 69.73; H, 6.33; N, 5.25.

reactant | 2-(3-{3-[5-benzyloxy-2-ethyl-4-(2H-pyrazol-3-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid | 0.490 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C1)CC)C=1NN=CC1 | C37H38N2O6
reactant | boron trifluoride etherate | 2 mL | B(F)(F)F.CCOCC
reactant | boron trifluoride etherate | 1 mL | B(F)(F)F.CCOCC
solvent | ethanethiol | 2.5 mL | C(C)S | C2H6S
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-(3-{3-[2-Ethyl-5-hydroxy-4-(2H-pyrazol-3-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid | 60 mg, 24% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1NN=CC1)O | C30H32N2O6
